US06548493B1
(7aS,11aR)-10-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound (0.31 g, 75%) was prepared by the general method of Example 402 from (7aS,11aR)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (0.21 g, 1.0 mmol), 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole (0.43 g, 2.0 mmol), KI (catalytic) and K2CO3 (0.28 g, 2.0 mmol) after chromatographic purification as a white amorphous solid. The 1H NMR was identical to that of Example 408, (±)-cis-10-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline

reactant | (7aS,11aR)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 1.0 mmol, 0.21 g | C1=CC=C2CCCN3C2=C1[C@H]1[C@@H]3CCNC1 | C14H18N2
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 2.0 mmol, 0.43 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | K2CO3 | 2.0 mmol, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
product | (7aS,11aR)-10-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.31 g, 75% | FC1=CC2=C(C(=NO2)CCCN2C[C@@H]3[C@@H](N4CCCC5=CC=CC3=C45)CC2)C=C1 | C24H26FN3O
